US06288096B1
2-[4-(tert-butoxycarbonylamino)phenyl]-1-ethanol dissolved in dichloromethane. The reaction mixture was cooled to −25° C. and 9.34 g (42 mmole) 3-nitrobenzenesulfonyl chloride was added in portions. The reaction mixture was poured on to icewater, the phases were separated and the organic phase was dried (sodium sulfate), filtered and the solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel using dichloromethane as eluent to give 8.3 g (yield 47%) 4-(tert-butoxycarbonylamino)-phenethyl 3-nitro-benzenesulfonate as yellow crystals.

reactant | 2-[4-(tert-butoxycarbonylamino)phenyl]-1-ethanol | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCO | C13H19NO3
reactant | 3-nitrobenzenesulfonyl chloride | 42 mmole, 9.34 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(tert-butoxycarbonylamino)-phenethyl 3-nitro-benzenesulfonate | 8.3 g, yield 47% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C | C19H22N2O7S
